US04806608
Preparation of 4-Butenyloxyphenyl Maleimide
The procedure is the same for 3-ethynylphenyl maleimide. The following amounts of staring materials were used: 4-butenyloxyaniline (4.0 g, 24.5 mmol), maleic anhydride (2.4 g, 24.5 mmol), acetone (100 ml) triethylamine (5 ml), nickel (II) acetate (0.25 g, 3.5 mmol), and acetic anhydride (2.75 g, 27 mmol). Yield=5.0 g, (84%).

reactant | 3-ethynylphenyl maleimide | C(#C)C=1C=C(C=CC1)C=1C(=O)NC(C1)=O | C12H7NO2
reactant | 4-butenyloxyaniline | 24.5 mmol, 4.0 g | C(=CCC)OC1=CC=C(N)C=C1 | C10H13NO
reactant | maleic anhydride | 24.5 mmol, 2.4 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | 27 mmol, 2.75 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | nickel (II) acetate | 3.5 mmol, 0.25 g | C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-Butenyloxyphenyl Maleimide | C(=CCC)OC1=CC=C(C=C1)C=1C(=O)NC(C1)=O | C14H13NO3
